US06177452B1
A mixture of methyl 4-bromo-4-(chlorobenzoyl)butyrate (89.5 g), sodium formate (76.2 g) and methanol (400 ml) was stirred under reflux for 12 hours. The reaction mixture was concentrated, and water was added to the resulting residue and then extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried (MgSO4). The solvent was evaporated to give methyl 4-(chlorobenzoyl)-4-hydroxybutyrate (72.0 g, 100%) as an oily substance. This oily substance (72.0 g) was dissolved in tetrahydrofuran (400 ml), pyridine (22.2 g) was added thereto, and thereafter phenyl chlorocarbonate (43.8 g) was dropwise added thereto with cooling with ice. After the reaction mixture was stirred at room temperature for 1 hour, water was added to the reaction mixture and then extracted with ethyl acetate. The ethyl acetate layer was washed with 2N hydrochloric acid and then with water, and dried (MgSO4). The solvent was evaporated, and the crystals thus precipitated were collected by filtration to obtain methyl 4-(4-chlorobenzoyl)-4-phenoxycarbonyloxybutyrate (61.2 g, 58%). This was recrystallized from methanol to give colorless prisms. mp 97-98° C.

reactant | methyl 4-bromo-4-(chlorobenzoyl)butyrate | 89.5 g | BrC(CCC(=O)OC)C(C1=C(C=CC=C1)Cl)=O | C12H12BrClO3
reactant | sodium formate | 76.2 g | C(=O)[O-].[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | methyl 4-(chlorobenzoyl)-4-hydroxybutyrate | 72.0 g, 100% | ClC1=C(C(=O)C(CCC(=O)OC)O)C=CC=C1 | C12H13ClO4
